US05599816
471a. 3-(R)-(1-BOC-2-(S)-pyrrolidinyl)-4-nitrobutanol
A 7.5 g sample of ethyl 3-(R)-(1-BOC-2-(S)-pyrrolidinyl)-4-nitrobutanoate (prepared according to the procedure of Hayakawa et al., U.S. Pat. No. 5,098,912, issued Mar. 24, 1992) was dissolved in 35 mL of ether and treated with 0.76 g of LAH. After careful quenching of the excess reagents, the title compound was extracted and purified by chromatography (4.5 g).

reactant | ethyl 3-(R)-(1-BOC-2-(S)-pyrrolidinyl)-4-nitrobutanoate | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)[C@H](CC(=O)OCC)C[N+](=O)[O-] | C15H26N2O6
reactant | LAH | 0.76 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 35 mL | CCOCC | C4H10O
product | 3-(R)-(1-BOC-2-(S)-pyrrolidinyl)-4-nitrobutanol | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)[C@H](CCO)C[N+](=O)[O-] | C13H24N2O5
